US04414226
In methanol (50 ml) was dissolved 2-(5-hydroxy-1,4-naphthoquinon-2-yl)-3-methoxy-5-methylbenzoic acid (1 g) as obtained in Example 15, followed by addition of a diethyl ether solution of diazomethane (20 ml). The mixture was allowed to stand at room temperature for an hour, after which the diethyl ether and methanol were distilled off. The residue was subjected to silical gel chromatography and recrystallized from diethyl ether-n-hexane. The procedure yielded yellow crystals (500 mg) of methyl 2-(5-hydroxy-1,4-naphthoquinon-2-yl)-3-methoxy-5-methylbenzoate.

reactant | 2-(5-hydroxy-1,4-naphthoquinon-2-yl)-3-methoxy-5-methylbenzoic acid | 1 g | OC1=C2C(C=C(C(C2=CC=C1)=O)C1=C(C(=O)O)C=C(C=C1OC)C)=O | C19H14O6
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | diazomethane | 20 ml | [N+](=[N-])=C | CH2N2
solvent | methanol | 50 ml | CO | CH4O
product | methyl 2-(5-hydroxy-1,4-naphthoquinon-2-yl)-3-methoxy-5-methylbenzoate | 500 mg | OC1=C2C(C=C(C(C2=CC=C1)=O)C1=C(C(=O)OC)C=C(C=C1OC)C)=O | C20H16O6
